US07399759B2
2-(4-Methoxy-2-pyridyl)-4H-1,3-benzothiazine-4-one
A mixture of methyl thiosalicylate (2.0 g, 11.7 mmol), 4-methoxy-2-cyanopyridine (1.5 g, 11.1 mmol), triethylamine (2.5 ml, 17.9 mmol) and toluene (5 ml) was refluxed for 12 hrs as described in Example 1. The precipitated crystals were collected by filtration and recrystallized from hexane-chlorobenzene to give the titled compound (2.4 g, 81%).

reactant | methyl thiosalicylate | 11.7 mmol, 2.0 g | C(C=1C(S)=CC=CC1)(=O)OC | C8H8O2S
reactant | 4-methoxy-2-cyanopyridine | 11.1 mmol, 1.5 g | COC1=CC(=NC=C1)C#N | C7H6N2O
reactant | triethylamine | 17.9 mmol, 2.5 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(4-Methoxy-2-pyridyl)-4H-1,3-benzothiazine-4-one | 2.4 g, 81% | COC1=CC(=NC=C1)C=1SC2=C(C(N1)=O)C=CC=C2 | C14H10N2O2S
